US08049016B2
Synthesis of 1-(4-fluorobenzyl)-4-(4-methyl-5-(2H-tetrazol-5-yl)thiazol-2-yl)-1H-1,2,4-triazol-5(4H)-one
A mixture of 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carbonitrile (0.10 g, 0.31 mmol), sodium azide (0.08 g, 1.57 mmol) and ammonium chloride (0.07 g, 1.57 mmol) in anhydrous N,N-dimethylformamide (5.0 mL) was heated at 80° C. for 16 h. The reaction was quenched with the addition of water (2.0 mL) and the solvents were removed in vacuo. The residue was dissolved with ethyl acetate (10 mL), washed with water (2×2 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was crystallized from methanol and ether to afford the title compound as a colourless solid (0.08 g, 72%): mp 136-139° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1H), 7.42-7.37 (m, 2H), 7.23-7.17 (m, 2H), 6.17 (br, 1H), 5.02 (s, 2H), 2.75 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 161.6 (d), 158.7, 151.8, 149.7, 148.6, 132.1 (d), 132.0, 129.9 (d), 115.4 (d), 113.6, 47.7, 16.7; MS (ES−) m/z 356.9 (M−1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carbonitrile | 0.31 mmol, 0.10 g | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C#N)C=C1 | C14H10FN5OS
reactant | sodium azide | 1.57 mmol, 0.08 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.57 mmol, 0.07 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 1-(4-fluorobenzyl)-4-(4-methyl-5-(2H-tetrazol-5-yl)thiazol-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.08 g, 72% | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C=2N=NNN2)C=C1 | C14H11FN8OS
